US07511050B2
Step B: 3-methyl-7-(1-methyl-1H-pyrazol-4-yl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one
6-(4-Methoxybenzyl)-3-methyl-7-(1-methyl-1H-pyrazol-4-yl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one (50 mg, 0.10 mmol) in trifluoroacetic acid (5 mL) was stirred at 60° C. overnight. The mixture was concentrated, and the residue was purified by preparative LC-MS to give final product. 1HNMR (300 MHz, CD3OD): δ 8.23 (d, J=4.9 Hz, 1H), 8.05 (d, J=4.9 Hz, 1H), 4.45 (t, J=7.0 Hz, 2H), 3.98 (s, 3H), 2.46 (s, 3H), 1.93 (m, 2H), 1.41 (m, 4H), 0.92 (m, 3H). LCMS calculated for C16H21N8O(M+H): 341.2; found 341.2.

reactant | 6-(4-Methoxybenzyl)-3-methyl-7-(1-methyl-1H-pyrazol-4-yl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | 0.10 mmol, 50 mg | COC1=CC=C(CN2C(=NC=3N(C=4N(C(C23)=O)C(=NN4)C)CCCCC)C=4C=NN(C4)C)C=C1 | C24H28N8O2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methyl-7-(1-methyl-1H-pyrazol-4-yl)-9-pentyl-6,9-dihydro-5H-[1,2,4]triazolo[4,3-a]purin-5-one | CC1=NN=C2N1C(C=1NC(=NC1N2CCCCC)C=2C=NN(C2)C)=O | C16H20N8O
